US09290517B2
Step B: (3R,3aR,6R,6aR)-6-((6-chloro-5-(3,6-dihydro-2H-thiopyran-4-yl)-1H-imidazo[4,5-b]pyridin-2-yl)oxy)hexahydrofuro[3,2-b]furan-3-ol
To (3R,3aR,6R,6aR)-6-((6-chloro-5-(3,6-dihydro-2H-thiopyran-4-yl)-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-imidazo[4,5-b]pyridin-2-yl)oxy)hexahydrofuro[3,2-b]furan-3-ol (74 mg, 0.141 mmol) in anhydrous DCM (0.45 mL) was added TFA (0.45 mL, 5.84 mmol). The solution stirred at RT for 18 h. The reaction solution was added to saturated NaHCO3 (35 mL) and extracted with EtOAc (2×45 mL). The organic layers combined, dried over Na2SO4, filtered, and the filtrate evaporated under reduced pressure. Flash chromatography utilizing a 12 g silica RediSep Rf® Gold column and employing a 0-10% MeOH/DCM gradient afforded the title compound. LC-MS: calculated for C17H18ClN3O4S 395.07 observed m/e: 395.90 (M+H)+ (Rt 0.84/2.0 min)

reactant | (3R,3aR,6R,6aR)-6-((6-chloro-5-(3,6-dihydro-2H-thiopyran-4-yl)-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-imidazo[4,5-b]pyridin-2-yl)oxy)hexahydrofuro[3,2-b]furan-3-ol | 0.141 mmol, 74 mg | ClC=1C=C2C(=NC1C=1CCSCC1)N=C(N2COCC[Si](C)(C)C)O[C@@H]2CO[C@H]1[C@@H]2OC[C@H]1O | C23H32ClN3O5SSi
reactant | TFA | 5.84 mmol, 0.45 mL | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | NaHCO3 | 35 mL | C(=O)(O)[O-].[Na+]
solvent | DCM | 0.45 mL | C(Cl)Cl | CH2Cl2
product | (3R,3aR,6R,6aR)-6-((6-chloro-5-(3,6-dihydro-2H-thiopyran-4-yl)-1H-imidazo[4,5-b]pyridin-2-yl)oxy)hexahydrofuro[3,2-b]furan-3-ol | ClC=1C=C2C(=NC1C=1CCSCC1)N=C(N2)O[C@@H]2CO[C@H]1[C@@H]2OC[C@H]1O | C17H18ClN3O4S
